US05461060
To 100 ml of methylene chloride, 5.1 g (40 mmol) of 2-thiouracil and 22 ml (88 mmol) of bistrimethylsilylacetamide were added under a nitrogen atmosphere, and stirred for 40 minutes at room temperature. To this mixture, 8.2 ml (88 mmole) of chloromethyl ethyl ether and 0.15 g (0.4 mmol) of tetrabutylammonium iodide were added and heated under reflux for 15 hours. Then, the reaction mixture was poured carefully into 50 ml of saturated aqueous solution of sodium hydrogencarbonate and filtered through Celite. The organic layer was washed with water, dried on magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to obtain 1.1 g of 1-ethoxymethyl-2-thiouracil (Yield: 15%).

reactant | 2-thiouracil | 40 mmol, 5.1 g | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | bistrimethylsilylacetamide | 88 mmol, 22 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | chloromethyl ethyl ether | 88 mmole, 8.2 ml | C(C)OCCl | C3H7ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | tetrabutylammonium iodide | 0.4 mmol, 0.15 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-ethoxymethyl-2-thiouracil | 1.1 g, Yield: 15% | C(C)OCN1C(=S)NC(=O)C=C1 | C7H10N2O2S
